US04007276
2-Ethylamino-5H-s-triazolo[5,1-a]isoindole
2-Acetamido-5H-s-triazolo[5,1-a]isoindole is reduced with lithium aluminum hydride at 0-10°C in dimethoxyethane. Yield 60%. M.p. 150-2°C (isopropyl ether).

reactant | 2-Acetamido-5H-s-triazolo[5,1-a]isoindole | C(C)(=O)NC1=NN2C(C3=CC=CC=C3C2)=N1 | C11H10N4O
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | dimethoxyethane | C(OC)COC | C4H10O2
product | 2-Ethylamino-5H-s-triazolo[5,1-a]isoindole | Yield 60% | C(C)NC1=NN2C(C3=CC=CC=C3C2)=N1 | C11H12N4
